US06268387B1
3-Amino-4-methoxy-N-(4-fluorophenyl)-benzamide
Prepared according to the procedure described for Example 7 using oxalyl chloride (3.0 mL, 34.39 mmol), 4-methoxy-3-nitrobenzoic acid (5.00 g, 25.36 mmol), dimethylformamide (0.5 mL, 6.5 mmol), and 4-fluroaniline (5.0 mL, 52.78 mmol) to afford the product (4.45 g); m.p. 164-167° C.

reactant | oxalyl chloride | 34.39 mmol, 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxy-3-nitrobenzoic acid | 25.36 mmol, 5.00 g | COC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | dimethylformamide | 6.5 mmol, 0.5 mL | CN(C=O)C | C3H7NO
reactant | 4-fluroaniline | 52.78 mmol, 5.0 mL | FC1=CC=C(N)C=C1 | C6H6FN
product | 3-Amino-4-methoxy-N-(4-fluorophenyl)-benzamide | 4.45 g | NC=1C=C(C(=O)NC2=CC=C(C=C2)F)C=CC1OC | C14H13FN2O2
